US05719152
(S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(ethoxycarbonylmethoxy) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A mixture of (S)-9-chloro-5-[p-aminomethyl-o-(carboxymethoxy)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride (1.50 g, 2.86 mmol), triethylamine (2 mL), and di-tert-butyl dicarbonate (750 mg, 3.44 mmol) in dichloromethane was stirred for 6 h at room temperature and concentrated. To the residue was added 2% aqueous potassium hydrogen sulfate (200 mL) and the precipitates were collected by filtration. The precipitates were dried in vacuo and suspended in dichloromethane (20 mL). Bop-Cl (884 mg, 3.43 mmol), ethanol (264 mg, 5.72 mmol), and triethylamine (2.5 mL) were added and the mixture was stirred for 20 h at room temperature. The mixture was diluted with ethyl acetate, washed successively with 5% potassium hydrogen sulfate and brine, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography with 5:1 ethyl acetate/hexane to 5:1 0.3% acetic acid in ethyl acetate/hexane to give 310 mg of the title compound (18%).

reactant | (S)-9-chloro-5-[p-aminomethyl-o-(carboxymethoxy)phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione hydrochloride | 2.86 mmol, 1.50 g | Cl.ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CN)OCC(=O)O)=O
reactant | di-tert-butyl dicarbonate | 3.44 mmol, 750 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Bop-Cl | 3.43 mmol, 884 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | ethanol | 5.72 mmol, 264 mg | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
product | (S)-9-Chloro-5-[p-tert-butoxycarbonylaminomethyl-o-(ethoxycarbonylmethoxy) phenylcarbamoylmethyl]-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 310 mg, 18% | ClC=1C=C2C=3N(C(C(NC3C1)=O)=O)[C@@H](CC2)CC(NC2=C(C=C(C=C2)CNC(=O)OC(C)(C)C)OCC(=O)OCC)=O | C29H33ClN4O8
